US08258141B2
2-Amino-1,1-bis-(4-chloro-phenyl)-ethanol
The title compound is prepared by combining 4,4′-dichlorobenzophenone (5 g, 20 mmol) and zinc iodide (480 mg, 1.49 mmol) in DCM (100 mL). Trimethylsilyl cyanide (2.17 g, 21.9 mmol) is added, and the reaction is stirred at room temperature for 18 hours. The reaction is washed with water (100 mL) and dried over magnesium sulfate, before filtering and removal of the solvent under reduced pressure. The residue is redissolved in dry THF (40 mL), 1.0M borane in THF (40 mL) is added, and the reaction is stirred at reflux for 24 hours. After cooling, the volatile components are removed under reduced pressure, the residue is taken up in methanol (100 mL). Concentrated hydrochloric acid is added, and the reaction is refluxed for a further 2 hours, before once more removing the volatile components under reduced pressure, to give the title compound as a hydrochloride salt.

reactant | 4,4′-dichlorobenzophenone | 20 mmol, 5 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | Trimethylsilyl cyanide | 21.9 mmol, 2.17 g | C[Si](C)(C)C#N | C4H9NSi
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 1.49 mmol, 480 mg | [I-].[Zn+2].[I-]
product | 2-Amino-1,1-bis-(4-chloro-phenyl)-ethanol | NCC(O)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C14H13Cl2NO
